Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Motrin / Iodinated Contrast- Oral and IV Dye / hydrocortisone / 
oxycodone / cyclobenzaprine / gabapentin / sumatriptan / 
Butalbital-Acetaminophen-Caffeine 
 
Attending: ___.
 
Chief Complaint:
Neck and Arm Pain
 
Major Surgical or Invasive Procedure:
FUSION CERVICAL ANTERIOR W/INSTRUMENTATION,
C6-C7 

 
History of Present Illness:
Ms. ___ is a ___ year old female who presents today for
new patient evaluation. Her chief complaint is back and thigh
pain. Her current pain level is a ___, but averages at a
___ reports that she has had back pain for many years. 
       She went to a neurologist who suggested that her thigh
pain may be due to nerve compression. She reports that she has
numbness and tingling that goes into her toes. She states that
her back pain starts in the middle of her back and feels like it
is pulling down into her buttocks. In the past, she has done
physical therapy and found it to be very helpful. She is
sensitive to many pain medications and can only take tylenol
which does not relieve her pain. 

 
Past Medical History:
High blood pressure, Asthma/allergies,
pulmonary embolysm DVT , Sciatica ___, Possible retinal
detachment. 

 
Social History:
___
Family History:
NC
 
Physical Exam:
AVSS
 Well appearing, NAD, comfortable
 BUE: SILT C5-T1 dermatomal distributions
 BUE: ___ Del/Tri/Bic/WE/WF/FF/IO
 BUE: tone normal, negative ___, 2+ symmetric DTR 
bic/bra/tri
 All fingers WWP, brisk capillary refill, 2+ distal pulses
 BLE: SILT L1-S1 dermatomal distributions
 BLE: ___ ___
 BLE: tone normal, no clonus, toes downgoing, 2+ DTR knee/ankle
 All toes WWP, brisk capillary refill, 2+ distal pulses
 
Pertinent Results:
___ 11:51PM   PTT-146.3*
___ 05:10PM   GLUCOSE-91 UREA N-12 CREAT-0.9 SODIUM-145 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-28 ANION GAP-14
___ 05:10PM   estGFR-Using this
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#2. Physical therapy and 
Occupational therapy were consulted for mobilization OOB to 
ambulate and ADL's.Hospital course was otherwise unremarkable.On 
the day of discharge the patient was afebrile with stable vital 
signs, comfortable on oral pain control and tolerating a regular 
diet.

 
 
Medications on Admission:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Omeprazole 40 mg PO DAILY  
3.  RisperiDONE 1 mg PO QHS  
4.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  
5.  Warfarin 5 mg PO QHS standing dose resumed  
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Omeprazole 40 mg PO DAILY  
3.  RisperiDONE 1 mg PO QHS  
4.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  
5.  Warfarin 5 mg PO QHS standing dose resumed  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cervical Stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have undergone the following operation:Anterior Cervical 
Decompression and Fusion.

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit in a car or chair for more than~45 minutes without 
getting up and walking around. 

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.  

•                Swallowing:Difficulty swallowing is not 
uncommon after this type of surgery.This should resolve over 
time.Please take small bites and eat slowly.Removing the collar 
while eating can be helpful–however,please limit your movement 
of your neck if you remove your collar while eating.

•                Cervical Collar / Neck Brace:If you have been 
given a soft collar for comfort, you may remove the collar to 
take a shower or eat.Limit your motion of your neck while the 
collar is off.You should wear the collar when walking,especially 
in public.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery,do not get the incision wet.Call the office at that 
time. f you have an incision on your hip please follow the same 
instructions in terms of wound care.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so plan ahead.You can either have them 
mailed to your home or pick them up at the clinic located on 
___ 2.We are not allowed to call in narcotic 
(oxycontin,oxycodone,percocet) prescriptions to the pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

___                Please Call the office and make an 
appointment for 2 weeks after the day of your operation if this 
has not been done already.

___                At the 2-week visit we will check your 
incision,take baseline x rays and answer any questions.

___                We will then see you at 6 weeks from the 
day of the operation.At that time we will most likely obtain 
Flexion/Extension X-rays and often able to place you in a soft 
collar which you will wean out of over 1 week.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit, drainage from your wound,or have any questions.

 
 
Followup Instructions:
___